US07956219B2
A solution of Fmoc-4-aminophenylacetic acid (0.098M), HOBt.H2O (0.12M) and DIC (0.2M) in 20% DMF/DCM was prepared. To this solution was added the Fmoc-deprotected Lanterns. The mixture was then gently agitated at room temperature for 21 h. At the completion of the reaction, the coupling solution was removed and the Lanterns washed with DMF (3×10 min), 50% DMF/DCM (3×10 min) and DCM (3×10 min). The Lanterns were air-dried overnight.

reactant | Fmoc-4-aminophenylacetic acid | 0.098M | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)C(C(=O)O)C1=CC=C(C=C1)N | C23H19NO4
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.12M | O | H2O
reactant | DMF DCM | CN(C)C=O.C(Cl)Cl
product | DIC | 0.2M | CC(N=C=NC(C)C)C | C7H14N2
